US04391805
4-Hydroxybenzylamine
Ammonia is passed into 500 ml of ethanol at 10° C. until saturation is reached, 122.1 g=1 mole of p-hydroxybenzaldehyde, 20 g of Raney nickel and 0.1 ml of concentrated sulfuric acid are added and the mixture is stirred in an autoclave for 6 hours at room temperature and under a hydrogen pressure of 100 atmospheres. After releasing the pressure, the catalyst is filtered off and the filtrate is boiled up with active charcoal, filtered and concentrated. The residue is recrystallized from a mixture of ethanol and ether. This gives 104 g (85% of theory), melting point: 104° C.

reactant | Ammonia | N | H3N
reactant | p-hydroxybenzaldehyde | 1 mole | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
catalyst | Raney nickel | 20 g | [Ni] | Ni
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4-Hydroxybenzylamine | OC1=CC=C(CN)C=C1 | C7H9NO
